US05767268
Biphenyl-4,4'-dicarboxylic acid bis-[[benzyl 3,4-di-O-acetyl-6-[(S)-4,5-diacetoxy-pentanoylamino]-2,6-didesoxy-α-D-glucopyranosid-2-yl]-amide] was deacetylated as described in Ex. 11.F. and gave biphenyl-4,4'-dicarboxylic acid bis-[[benzyl 2,6-didesoxy-6-[(S)-4,5-dihydroxy-pentanoylamino]-α-D-gluco-pyranosid-2-yl]-amide], [α]+92.00 (c 0.2; dioxan), MS: m/z 997.9 ([M+Na]+).

reactant | Biphenyl-4,4'-dicarboxylic acid bis-[[benzyl 3,4-di-O-acetyl-6-[(S)-4,5-diacetoxy-pentanoylamino]-2,6-didesoxy-α-D-glucopyranosid-2-yl]-amide] | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(CC[C@@H](COC(C)=O)OC(C)=O)=O)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N[C@H]1[C@@](O)(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)CNC(CC[C@@H](COC(C)=O)OC(C)=O)=O)CC1=CC=CC=C1 | C66H78N4O24
solvent | dioxan | O1CCOCC1 | C4H8O2
product | biphenyl-4,4'-dicarboxylic acid bis-[[benzyl 2,6-didesoxy-6-[(S)-4,5-dihydroxy-pentanoylamino]-α-D-gluco-pyranosid-2-yl]-amide] | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CNC(CC[C@@H](CO)O)=O)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N[C@H]1[C@@](O)(O[C@@H]([C@H]([C@@H]1O)O)CNC(CC[C@@H](CO)O)=O)CC1=CC=CC=C1 | C50H62N4O16
